US07189750B2
Preparation of 2,6-difluoro-N-[4-methyl-5-(2-nitrooxy-ethyl)-thiazol-2-yl]-benzamide (Pet-161)
Pet-161 was prepared according to the general procedure described hereinabove and the procedure described above for the preparation of Pet-154, using 2,6-difluoro-benzoic acid and 4-methyl-5-(2-nitrooxy-ethyl)-thiazol-2-ylamine (Pet-10) as the starting materials, in an overall yield of 72%.

reactant | 2,6-difluoro-benzoic acid | FC1=C(C(=O)O)C(=CC=C1)F | C7H4F2O2
reactant | 4-methyl-5-(2-nitrooxy-ethyl)-thiazol-2-ylamine | CC=1N=C(SC1CCO[N+](=O)[O-])N | C6H9N3O3S
product | 2,6-difluoro-N-[4-methyl-5-(2-nitrooxy-ethyl)-thiazol-2-yl]-benzamide | yield of 72% | FC1=C(C(=O)NC=2SC(=C(N2)C)CCO[N+](=O)[O-])C(=CC=C1)F | C13H11F2N3O4S
